US07678818B2
(2-{(4-tert-Butyl-benzyl)-[2-(3-trifluoromethoxy-phenyl)-ethyl]-carbamoyl}-4-chloro-phenylamino)-acetic acid
A solution of 33 mg of (2-{(4-tert-butyl-benzyl)-[2-(3-trifluoromethoxy-phenyl)-ethyl]-carbamoyl}-4-chloro-phenylamino)-acetic acid ethyl ester (0.06 mmol) in 0.5 ml methanol and 0.11 ml 1N aqueous NaOH was heated for 2 hours to 50° C. After cooling down to RT the mixture was neutralized with 0.11 ml 1N aqueous HCl, treated with a small amount of water, and extracted twice with ethylacetate. The combined organic phases were washed with brine, dried over magnesium sulfate, filtered and concentrated in vacuo to give 26 mg (79%) of the title compound as an off-white solid. MS (ISP) 563.4 (M+H)+.

reactant | (2-{(4-tert-butyl-benzyl)-[2-(3-trifluoromethoxy-phenyl)-ethyl]-carbamoyl}-4-chloro-phenylamino)-acetic acid ethyl ester | 0.06 mmol, 33 mg | C(C)OC(CNC1=C(C=C(C=C1)Cl)C(N(CCC1=CC(=CC=C1)OC(F)(F)F)CC1=CC=C(C=C1)C(C)(C)C)=O)=O | C31H34ClF3N2O4
reactant | HCl | 1N, 0.11 ml | Cl | ClH
reactant | water | O | H2O
solvent | methanol | 0.5 ml | CO | CH4O
solvent | NaOH | 1N, 0.11 ml | [OH-].[Na+]
product | (2-{(4-tert-Butyl-benzyl)-[2-(3-trifluoromethoxy-phenyl)-ethyl]-carbamoyl}-4-chloro-phenylamino)-acetic acid | 26 mg, 79% | C(C)(C)(C)C1=CC=C(CN(C(=O)C2=C(C=CC(=C2)Cl)NCC(=O)O)CCC2=CC(=CC=C2)OC(F)(F)F)C=C1 | C29H30ClF3N2O4
